US07700609B2
2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid
2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester (4.20 g, 11.52 mmol) was placed in a 500 mL Florentine and cooled in an ice-bath. Pre-mixed TFA:DCM:water (1:1:0.025, 4.5 mL) was added in one portion and the resultant solution was stirred at 0° C. for 0.75 hours and a further 0.75 hours at room temperature. The reaction mixture was concentrated under reduced pressure and azeotroped with portions of DCM (5×50 mL) and Et2O (5×50 mL). The solid obtained was triturated with Et2O, filtered and washed with Et2O (3×5mL) to give a light yellow powder (3.51 g, 99% yield). δH (d6 DMSO) 3.6-3.7(3H, s), 8.3(1H, d), 8.6(1H, d), 8.8(1H, s), 9.9-10.0(1H, s), 13.8-14.0(1H, br s)

reactant | 2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 11.52 mmol, 4.20 g | C(C)(C)(C)OC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)S(=O)(=O)C)S1 | C16H16N2O4S2
reactant | TFA DCM water | 4.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl.O
product | 2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid | 3.51 g, 99% yield | CS(=O)(=O)C1=NC2=C3C(=CC=C2C=N1)SC(=C3)C(=O)O | C12H8N2O4S2
